US06303673B1
(b) 4-(4-Pyrrolidinophenyl)-1,2-naphthoquinone-2-oxime
A solution of hydroxylamine hydrochloride (0.08 mol) in anhydrous ethanol (50 cm3) was added dropwise to a stirred solution of 4-(4-pyrrolidinophenyl)-1,2-naphthoquinone (0.02 mol) in warm anhydrous ethanol (250 cm3). The mixture was refluxed until thin layer chromatography indicated that no 4-(4-pyrrolidinophenyl)-1,2-naphthoquinone remained. The mixture was cooled in ice, diluted with water and the brown precipitate was collected by vacuum filtration and washed with water and air dried. Yield=84%, m.p.=278-300° C. (decomp.).

reactant | hydroxylamine hydrochloride | 0.08 mol | Cl.NO
reactant | 4-(4-pyrrolidinophenyl)-1,2-naphthoquinone | 0.02 mol | N1(CCCC1)C1=CC=C(C=C1)C1=CC(C(C2=CC=CC=C12)=O)=O | C20H17NO2
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
solvent | ethanol | 250 cm3 | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(4-Pyrrolidinophenyl)-1,2-naphthoquinone-2-oxime | Yield=84% | N1(CCCC1)C1=CC=C(C=C1)C1=CC(C(C2=CC=CC=C12)=O)=NO | C20H18N2O2
